US09328118B2
Triethylamine (90 μL) was added to a solution of 7-methyl-4-{6-[2-(piperidin-3-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (100 mg) in dichloroethane (2 mL) at room temperature, and the mixture was stirred at the same temperature for 20 minutes. After mixture was ice-cooled, acetic acid (61 μL), sodium triacetoxyborohydride (91 mg), and acetaldehyde (36 μL) were added thereto, and the mixture was stirred for 1 hour under ice-cooling. After a saturated aqueous NaHCO3 solution was added to the reaction mixture, extraction thereof was performed using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (Hex:EtOAc=80:20 to 40:60). The obtained product was dissolved in EtOAc (1 mL), then a 4 M solution of hydrogen chloride in EtOAc (0.3 mL) was added thereto at room temperature, and the mixture was stirred at the same temperature for 10 minutes. The precipitate was collected by filtration, whereby 4-{6-[2-(1-ethylpiperidin-3-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-7-methyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (92 mg) was obtained as a pale yellow solid.

reactant | 7-methyl-4-{6-[2-(piperidin-3-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 100 mg | Cl.CN1C=CC2=C1N=C(N=C2C=2C=NC(=C(C2)C(F)(F)F)OCCC2CNCCC2)C#N
reactant | sodium triacetoxyborohydride | 91 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 36 μL | C(C)=O | C2H4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic acid | 61 μL | C(C)(=O)O | C2H4O2
solvent | Triethylamine | 90 μL | C(C)N(CC)CC | C6H15N
product | 4-{6-[2-(1-ethylpiperidin-3-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-7-methyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 92 mg | Cl.C(C)N1CC(CCC1)CCOC1=C(C=C(C=N1)C=1C2=C(N=C(N1)C#N)N(C=C2)C)C(F)(F)F | InChI=1S/C23H25F3N6O.ClH/c1-3-32-8-4-5-15(14-32)7-10-33-22-18(23(24,25)26)11-16(13-28-22)20-17-6-9-31(2)21(17)30-19(12-27)29-20;/h6,9,11,13,15H,3-5,7-8,10,14H2,1-2H3;1H
